US04626276
Trans-2-[1-(3-chloroallyloxyimino)butyl]-5-(2-ethylsulfinylpropyl) cyclohexane 1,3-dione
In this example, a mixture containing 2.2 g of trans-2-[1-(3-chloroallyloxyimino)butyl]-5-(2-ethylthiopropyl) cyclohexane 1,3-dione and 1 ml of aqueous 30% hydrogen peroxide in 10 ml of acetone was stirred at room temperature for about 21/2 days and then concentrated by evaporation. The residue was mixed with 50 ml of ethyl ether, washed with 30 ml of saturated aqueous sodium bicarbonate solution, then washed with 30 ml of water, dried over magnesium sulfate and evaporated to dryness affording 1.9 g of the title compound.

reactant | trans-2-[1-(3-chloroallyloxyimino)butyl]-5-(2-ethylthiopropyl) cyclohexane 1,3-dione | 2.2 g | ClC=CCON=C(CCC)[C@@H]1C(C[C@H](CC1=O)CC(C)SCC)=O | C18H28ClNO3S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Trans-2-[1-(3-chloroallyloxyimino)butyl]-5-(2-ethylsulfinylpropyl) cyclohexane 1,3-dione | 1.9 g | ClC=CCON=C(CCC)[C@@H]1C(C[C@H](CC1=O)CC(C)S(=O)CC)=O | C18H28ClNO4S
